*nsi45030 PSpice model (constant Iak slope)
*$
.SUBCKT NSIC2030BT3G ANODE CATHODE  
R_Rpeak         VAKPEAK ANODE  7G  
G_Iak         ANODE CATHODE VALUE { IakFunc(V(ANODE, CATHODE),temp,Slope,V(IREG, CATHODE))}
C_Cpeak         CATHODE VAKPEAK  0.1n  
D_D1         CATHODE ANODE DLIM 
E_VakPeakTable         VAKTABLE CATHODE TABLE { V(ANODE, CATHODE) } 
+ ( (0,0) (3,31.8m) (4,34.3m) (5,35.5m) (7,36.8m) (10,37.8m) (60,38m) )
D_D2         N168443 CATHODE DLIM 
V_Vbr         ANODE N168443 {Vakbr}
R_Rpeak1         N169893 VAKPEAK  40G  
E_IakPeak         IREG CATHODE VALUE {
+  IakPeakFunc(V(VAKTABLE, CATHODE),Iregss,V(ANODE, CATHODE),V(VAKPEAK, CATHODE)) }
C_Cpeak1         CATHODE N169893  0.1n  
R_R1         CATHODE IREG  1k  
.PARAM Iregss=30m
.PARAM Vakbr=121
.PARAM Slope=3e-7
.FUNC IakFunc(Vak,T,k,current)
+{(-0.0025*T+1.0746)*current*(1-exp(-Vak/0.9))+Vak*k}
.FUNC IakPeakFunc(VakTable,Iregss,Vak,VakPeak)
+{IF(Vak>0, (Iregss+(VakTable-Iregss)*((Vak-Vakpeak)/Vak)), 0)}
.MODEL DLIM D cjo=10f
+IS=1e-10
+RS=1e-2
.ENDS

*nsi45030 PSpice model (constant Iak slope)
*$
.SUBCKT NSIC2020BT3G ANODE CATHODE  
R_Rpeak         VAKPEAK ANODE  7G  
G_Iak         ANODE CATHODE VALUE { IakFunc(V(ANODE, CATHODE),temp,Slope,V(IREG, CATHODE))}
C_Cpeak         CATHODE VAKPEAK  0.1n  
D_D1         CATHODE ANODE DLIM 
E_VakPeakTable         VAKTABLE CATHODE TABLE { V(ANODE, CATHODE) } 
+ ( (0,0) (3,31.8m) (4,34.3m) (5,35.5m) (7,36.8m) (10,37.8m) (60,38m) )
D_D2         N168443 CATHODE DLIM 
V_Vbr         ANODE N168443 {Vakbr}
R_Rpeak1         N169893 VAKPEAK  40G  
E_IakPeak         IREG CATHODE VALUE {
+  IakPeakFunc(V(VAKTABLE, CATHODE),Iregss,V(ANODE, CATHODE),V(VAKPEAK, CATHODE)) }
C_Cpeak1         CATHODE N169893  0.1n  
R_R1         CATHODE IREG  1k  
.PARAM Iregss=20m
.PARAM Vakbr=121
.PARAM Slope=3e-7
.FUNC IakFunc(Vak,T,k,current)
+{(-0.0025*T+1.0746)*current*(1-exp(-Vak/0.9))+Vak*k}
.FUNC IakPeakFunc(VakTable,Iregss,Vak,VakPeak)
+{IF(Vak>0, (Iregss+(VakTable-Iregss)*((Vak-Vakpeak)/Vak)), 0)}
.MODEL DLIM D cjo=10f
+IS=1e-10
+RS=1e-2
.ENDS

*nsi50350 PSpice model (constant Iak slope)
*$
.SUBCKT NSI50350_1 ANODE CATHODE  
R_Rpeak         VAKPEAK ANODE  7G  
G_Iak         ANODE CATHODE VALUE { IakFunc(V(ANODE, CATHODE),temp,Slope,V(IREG, CATHODE))}
C_Cpeak         CATHODE VAKPEAK  0.1n  
D_D1         CATHODE ANODE DLIM 
E_VakPeakTable         VAKTABLE CATHODE TABLE { V(ANODE, CATHODE) } 
+ ( (0,0) (3,31.8m) (4,34.3m) (5,35.5m) (7,36.8m) (10,37.8m) (60,38m) )
D_D2         N168443 CATHODE DLIM 
V_Vbr         ANODE N168443 {Vakbr}
R_Rpeak1         N169893 VAKPEAK  40G  
E_IakPeak         IREG CATHODE VALUE {
+  IakPeakFunc(V(VAKTABLE, CATHODE),Iregss,V(ANODE, CATHODE),V(VAKPEAK, CATHODE)) }
C_Cpeak1         CATHODE N169893  0.1n  
R_R1         CATHODE IREG  1k  
.PARAM Iregss=350m
.PARAM Vakbr=52
.PARAM Slope=3e-7
.FUNC IakFunc(Vak,T,k,current)
+{(-0.0025*T+1.0746)*current*(1-exp(-Vak/1.1))+Vak*k}
.FUNC IakPeakFunc(VakTable,Iregss,Vak,VakPeak)
+{IF(Vak>0, (Iregss+(VakTable-Iregss)*((Vak-Vakpeak)/Vak)), 0)}
.MODEL DLIM D cjo=10f
+IS=1e-10
+RS=1e-2
.ENDS

*nsi45030 PSpice model (constant Iak slope)
*$
.SUBCKT NSI50010YT1G ANODE CATHODE  
R_Rpeak         VAKPEAK ANODE  7G  
G_Iak         ANODE CATHODE VALUE { IakFunc(V(ANODE, CATHODE),temp,Slope,V(IREG, CATHODE))}
C_Cpeak         CATHODE VAKPEAK  0.1n  
D_D1         CATHODE ANODE DLIM 
E_VakPeakTable         VAKTABLE CATHODE TABLE { V(ANODE, CATHODE) } 
+ ( (0,0) (3,31.8m) (4,34.3m) (5,35.5m) (7,36.8m) (10,37.8m) (60,38m) )
D_D2         N168443 CATHODE DLIM 
V_Vbr         ANODE N168443 {Vakbr}
R_Rpeak1         N169893 VAKPEAK  40G  
E_IakPeak         IREG CATHODE VALUE {
+  IakPeakFunc(V(VAKTABLE, CATHODE),Iregss,V(ANODE, CATHODE),V(VAKPEAK, CATHODE)) }
C_Cpeak1         CATHODE N169893  0.1n  
R_R1         CATHODE IREG  1k  
.PARAM Iregss=10m
.PARAM Vakbr=52
.PARAM Slope=3e-7
.FUNC IakFunc(Vak,T,k,current)
+{(-0.0025*T+1.0746)*current*(1-exp(-Vak/0.9))+Vak*k}
.FUNC IakPeakFunc(VakTable,Iregss,Vak,VakPeak)
+{IF(Vak>0, (Iregss+(VakTable-Iregss)*((Vak-Vakpeak)/Vak)), 0)}
.MODEL DLIM D cjo=10f
+IS=1e-10
+RS=1e-2
.ENDS

*nsi45030 PSpice model (constant Iak slope)
*$
.SUBCKT NSI45030T1G ANODE CATHODE  
R_Rpeak         VAKPEAK ANODE  7G  
G_Iak         ANODE CATHODE VALUE { IakFunc(V(ANODE, CATHODE),temp,Slope,V(IREG, CATHODE))}
C_Cpeak         CATHODE VAKPEAK  0.1n  
D_D1         CATHODE ANODE DLIM 
E_VakPeakTable         VAKTABLE CATHODE TABLE { V(ANODE, CATHODE) } 
+ ( (0,0) (3,31.8m) (4,34.3m) (5,35.5m) (7,36.8m) (10,37.8m) (60,38m) )
D_D2         N168443 CATHODE DLIM 
V_Vbr         ANODE N168443 {Vakbr}
R_Rpeak1         N169893 VAKPEAK  40G  
E_IakPeak         IREG CATHODE VALUE {
+  IakPeakFunc(V(VAKTABLE, CATHODE),Iregss,V(ANODE, CATHODE),V(VAKPEAK, CATHODE)) }
C_Cpeak1         CATHODE N169893  0.1n  
R_R1         CATHODE IREG  1k  
.PARAM Iregss=30m
.PARAM Vakbr=52
.PARAM Slope=3e-7
.FUNC IakFunc(Vak,T,k,current)
+{(-0.0025*T+1.0746)*current*(1-exp(-Vak/0.9))+Vak*k}
.FUNC IakPeakFunc(VakTable,Iregss,Vak,VakPeak)
+{IF(Vak>0, (Iregss+(VakTable-Iregss)*((Vak-Vakpeak)/Vak)), 0)}
.MODEL DLIM D cjo=10f
+IS=1e-10
+RS=1e-2
.ENDS

*nsi45030 PSpice model (constant Iak slope)
*$
.SUBCKT NSI45025T1G ANODE CATHODE  
R_Rpeak         VAKPEAK ANODE  7G  
G_Iak         ANODE CATHODE VALUE { IakFunc(V(ANODE, CATHODE),temp,Slope,V(IREG, CATHODE))}
C_Cpeak         CATHODE VAKPEAK  0.1n  
D_D1         CATHODE ANODE DLIM 
E_VakPeakTable         VAKTABLE CATHODE TABLE { V(ANODE, CATHODE) } 
+ ( (0,0) (3,31.8m) (4,34.3m) (5,35.5m) (7,36.8m) (10,37.8m) (60,38m) )
D_D2         N168443 CATHODE DLIM 
V_Vbr         ANODE N168443 {Vakbr}
R_Rpeak1         N169893 VAKPEAK  40G  
E_IakPeak         IREG CATHODE VALUE {
+  IakPeakFunc(V(VAKTABLE, CATHODE),Iregss,V(ANODE, CATHODE),V(VAKPEAK, CATHODE)) }
C_Cpeak1         CATHODE N169893  0.1n  
R_R1         CATHODE IREG  1k  
.PARAM Iregss=25m
.PARAM Vakbr=52
.PARAM Slope=3e-7
.FUNC IakFunc(Vak,T,k,current)
+{(-0.0025*T+1.0746)*current*(1-exp(-Vak/0.9))+Vak*k}
.FUNC IakPeakFunc(VakTable,Iregss,Vak,VakPeak)
+{IF(Vak>0, (Iregss+(VakTable-Iregss)*((Vak-Vakpeak)/Vak)), 0)}
.MODEL DLIM D cjo=10f
+IS=1e-10
+RS=1e-2
.ENDS

*nsi45030 PSpice model (constant Iak slope)
*$
.SUBCKT NSI45020T1G ANODE CATHODE  
R_Rpeak         VAKPEAK ANODE  7G  
G_Iak         ANODE CATHODE VALUE { IakFunc(V(ANODE, CATHODE),temp,Slope,V(IREG, CATHODE))}
C_Cpeak         CATHODE VAKPEAK  0.1n  
D_D1         CATHODE ANODE DLIM 
E_VakPeakTable         VAKTABLE CATHODE TABLE { V(ANODE, CATHODE) } 
+ ( (0,0) (3,31.8m) (4,34.3m) (5,35.5m) (7,36.8m) (10,37.8m) (60,38m) )
D_D2         N168443 CATHODE DLIM 
V_Vbr         ANODE N168443 {Vakbr}
R_Rpeak1         N169893 VAKPEAK  40G  
E_IakPeak         IREG CATHODE VALUE {
+  IakPeakFunc(V(VAKTABLE, CATHODE),Iregss,V(ANODE, CATHODE),V(VAKPEAK, CATHODE)) }
C_Cpeak1         CATHODE N169893  0.1n  
R_R1         CATHODE IREG  1k  
.PARAM Iregss=20m
.PARAM Vakbr=52
.PARAM Slope=3e-7
.FUNC IakFunc(Vak,T,k,current)
+{(-0.0025*T+1.0746)*current*(1-exp(-Vak/0.9))+Vak*k}
.FUNC IakPeakFunc(VakTable,Iregss,Vak,VakPeak)
+{IF(Vak>0, (Iregss+(VakTable-Iregss)*((Vak-Vakpeak)/Vak)), 0)}
.MODEL DLIM D cjo=10f
+IS=1e-10
+RS=1e-2
.ENDS

*nsi45030 PSpice model (constant Iak slope)
*$
.SUBCKT NSI45015_1 ANODE CATHODE  
R_Rpeak         VAKPEAK ANODE  7G  
G_Iak         ANODE CATHODE VALUE { IakFunc(V(ANODE, CATHODE),temp,Slope,V(IREG, CATHODE))}
C_Cpeak         CATHODE VAKPEAK  0.1n  
D_D1         CATHODE ANODE DLIM 
E_VakPeakTable         VAKTABLE CATHODE TABLE { V(ANODE, CATHODE) } 
+ ( (0,0) (3,31.8m) (4,34.3m) (5,35.5m) (7,36.8m) (10,37.8m) (60,38m) )
D_D2         N168443 CATHODE DLIM 
V_Vbr         ANODE N168443 {Vakbr}
R_Rpeak1         N169893 VAKPEAK  40G  
E_IakPeak         IREG CATHODE VALUE {
+  IakPeakFunc(V(VAKTABLE, CATHODE),Iregss,V(ANODE, CATHODE),V(VAKPEAK, CATHODE)) }
C_Cpeak1         CATHODE N169893  0.1n  
R_R1         CATHODE IREG  1k  
.PARAM Iregss=15m
.PARAM Vakbr=52
.PARAM Slope=3e-7
.FUNC IakFunc(Vak,T,k,current)
+{(-0.0025*T+1.0746)*current*1*(1-exp(-Vak/0.9))+Vak*k}
.FUNC IakPeakFunc(VakTable,Iregss,Vak,VakPeak)
+{IF(Vak>0, (Iregss+(VakTable-Iregss)*((Vak-Vakpeak)/Vak)), 0)}
.MODEL DLIM D cjo=10f
+IS=1e-10
+RS=1e-2
.ENDS

*nsi45030 PSpice model (constant Iak slope)
*$
.SUBCKT NSIC2050BT3G ANODE CATHODE  
R_Rpeak         VAKPEAK ANODE  7G  
G_Iak         ANODE CATHODE VALUE { IakFunc(V(ANODE, CATHODE),temp,Slope,V(IREG, CATHODE))}
C_Cpeak         CATHODE VAKPEAK  0.1n  
D_D1         CATHODE ANODE DLIM 
E_VakPeakTable         VAKTABLE CATHODE TABLE { V(ANODE, CATHODE) } 
+ ( (0,0) (3,31.8m) (4,34.3m) (5,35.5m) (7,36.8m) (10,37.8m) (60,38m) )
D_D2         N168443 CATHODE DLIM 
V_Vbr         ANODE N168443 {Vakbr}
R_Rpeak1         N169893 VAKPEAK  40G  
E_IakPeak         IREG CATHODE VALUE {
+  IakPeakFunc(V(VAKTABLE, CATHODE),Iregss,V(ANODE, CATHODE),V(VAKPEAK, CATHODE)) }
C_Cpeak1         CATHODE N169893  0.1n  
R_R1         CATHODE IREG  1k  
.PARAM Iregss=50m
.PARAM Vakbr=121
.PARAM Slope=3e-7
.FUNC IakFunc(Vak,T,k,current)
+{(-0.0025*T+1.0746)*current*(1-exp(-Vak/0.9))+Vak*k}
.FUNC IakPeakFunc(VakTable,Iregss,Vak,VakPeak)
+{IF(Vak>0, (Iregss+(VakTable-Iregss)*((Vak-Vakpeak)/Vak)), 0)}
.MODEL DLIM D cjo=10f
+IS=1e-10
+RS=1e-2
.ENDS


